US04461907
Preparation of 6-Bromo-4'-methoxyflavan
5-Bromo-2-hydroxy-4'-methoxychalcone (16.7 g) was suspended in ethanol (200 ml) and sodium borohydride (3.78 g) added in portions. The resulting solution was stirred for 30 min, then allowed to stand overnight. The solvent was evaporated off, and the residue dissolved in chloroform and washed with water. Evaporation of the solvent gave the crude carbinol intermediate which was boiled under reflux with acetic acid for 2 hr. On cooling, 6-bromo-4'-methoxyflavan crystallised out and was filtered off and dried, 10.2 g, m.p. 121°-123°.

reactant | 5-Bromo-2-hydroxy-4'-methoxychalcone | 16.7 g | BrC=1C=CC(=C(C1)C=CC(=O)C1=CC=C(C=C1)OC)O | C16H13BrO3
reactant | sodium borohydride | 3.78 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-Bromo-4'-methoxyflavan | BrC=1C=C2CCC(OC2=CC1)C1=CC=C(C=C1)OC | C16H15BrO2
